US08445674B2
D) 3-{(R)-4-[(E)-3-(3-Chloro-phenyl)-acryloyl]-3-methyl-7-oxo-[1,4]diazepan-1-yl}-propionic acid
To 0.52 g (1 mmol) of (R)-1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(3-hydroxy-propyl)-2-methyl-[1,4]diazepan-5-one, 0.002 g (0.01 mmol) TEMPO in 5 ml of ice cold CH2Cl2 was added 0.018 g (0.2 mmol) of potassium bromide in a solution of 4.6 ml (6 mmol) of 13% sodium hypochlorite saturated with NaHCO3. The mixture was rapidly stirred for 5 minutes after which time a few drops of MeOH were added and the phases separated. The aqueous was acidified with 1N HCl and repeatedly extracted with CH2Cl2, dried (Na2SO4) and concentrated. This afforded the titled compound in 92% yield as a colorless foam. MS: 365.2 (MH+, Cl).

reactant | (R)-1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(3-hydroxy-propyl)-2-methyl-[1,4]diazepan-5-one | 1 mmol, 0.52 g | ClC=1C=C(C=CC1)/C=C/C(=O)N1[C@@H](CN(C(CC1)=O)CCCO)C | C18H23ClN2O3
reactant | TEMPO | 0.01 mmol, 0.002 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | potassium bromide | 0.2 mmol, 0.018 g | [Br-].[K+]
reactant | sodium hypochlorite | 6 mmol, 4.6 ml | Cl[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | MeOH | a few drops | CO | CH4O
product | 3-{(R)-4-[(E)-3-(3-Chloro-phenyl)-acryloyl]-3-methyl-7-oxo-[1,4]diazepan-1-yl}-propionic acid | 92% yield | ClC=1C=C(C=CC1)/C=C/C(=O)N1[C@@H](CN(C(CC1)=O)CCC(=O)O)C | C18H21ClN2O4
